US09029409B2
To an ice cold solution of (6-bromo-2-methylpyrimidin-4-yl)methanol (4.10 g, 20.2 mmol, Preparation #4) in DMF (40 mL) were added imidazole (5.50 g, 80.8 mmol, Spectrochem) and TBDMS-Cl (6.10 g, 40.4 mmol, Spectrochem). The resulting reaction mixture was warmed to RT and stirred about 5 h. The mixture was diluted with ice cold water (200 mL), the product was extracted with diethyl ether (3×200 mL) and washed with water (1×100 mL) and brine solution (1×150 mL). The organic layer was dried over sodium sulphate and concentrated in vacuum. The resulting crude material was purified by silica gel chromatography using 10 to 20% of EtOAc in hexane as the eluent. Relevant fractions containing the target compound were combined and evaporated to dryness under reduced pressure to afford 4-bromo-6-((tert-butyldimethylsilyloxy) methyl)-2-methylpyrimidine 5.9 g (93%). 1H NMR (400 MHz, CDCl3) δ: 7.54 (s, 1H), 4.72 (s, 2H), 2.67 (s, 3H), 0.96 (s, 9H), 0.13 (s, 6H); MS m/z: 319.2 (M+H)+.

reactant | (6-bromo-2-methylpyrimidin-4-yl)methanol | 20.2 mmol, 4.10 g | BrC1=CC(=NC(=N1)C)CO | C6H7BrN2O
reactant | imidazole | 80.8 mmol, 5.50 g | N1C=NC=C1 | C3H4N2
reactant | TBDMS-Cl | 40.4 mmol, 6.10 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-bromo-6-((tert-butyldimethylsilyloxy) methyl)-2-methylpyrimidine | 5.9 g, 93% | BrC1=NC(=NC(=C1)CO[Si](C)(C)C(C)(C)C)C | C12H21BrN2OSi
